US05770598
4-Methyldibenzofuran
Dibenzofuran (26.94 g, 160 mmol) was dissolved in dry THF (500 ml) and cooled to -78° C. n-Butyl lithium (1.6M in hexane, 200 ml, 320 mmol) was added in portions over 30 mins. and the solution was allowed to warm to room temperature over 2.5 hours. The solution was recooled to -70° C. and a mixture of dimethyl sulphate (32 ml, 340 mmol) in dry THF (100 ml) was added dropwise. Once the addition was complete, the reaction was allowed to warm to room temperature, stirred for 18 hours and poured onto saturated ammonium chloride solution (400 ml). The phases were separated and the aqueous extracted twice with ether. The combined organic phases were dried (MgSO4) and evaporated in vacuo. Chromatography on silica (eluting with 40-60 petrol) gave the pure product as a clear oil (29.2 g, 100%) δH [2H6 ]-DMSO 8.1 (1H, d), 7.9 (1H, d), 7.7 (1H, d),7.5 (1H, t), 7.4 (1H, t), 7.25 (2H, m), 2.55 (3H, s).

reactant | Dibenzofuran | 160 mmol, 26.94 g | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
reactant | n-Butyl lithium | 320 mmol, 1.6M, 200 ml | C(CCC)[Li]
reactant | dimethyl sulphate | 340 mmol, 32 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-Methyldibenzofuran | 29.2 g, 100% | CC1=CC=CC2=C1OC1=C2C=CC=C1 | C13H10O
